US04318912
p-Toluenesulfonic anhydride (33 mg, 0.1 mmol) and Et3N (17 μl, 0.12 mmol) are added to a solution of benzyl 1-azabicyclo[3.2.0]heptan-3,7-dione-2-carboxylate (26 mg., 0.1 mmol) in anhydrous CH2Cl2 (2 ml). The resulting solution is stirred at room temperature for 2 hours. The mixture is diluted with CH2Cl2 (10 ml), washed with H2O (2×5 ml), pH 3 phosphate buffer (5 ml) and 5% NaHCO3 (5 ml), dried with MgSO4, filtered and evaporated i.v. to provide benzyl 3-toluenesulfonyloxy-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate.

reactant | p-Toluenesulfonic anhydride | 0.1 mmol, 33 mg | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
reactant | Et3N | 0.12 mmol, 17 μl | CCN(CC)CC | C6H15N
reactant | benzyl 1-azabicyclo[3.2.0]heptan-3,7-dione-2-carboxylate | 0.1 mmol, 26 mg | N12C(C(CC2CC1=O)=O)C(=O)OCC1=CC=CC=C1 | C14H13NO4
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | benzyl 3-toluenesulfonyloxy-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | C=1(C(=CC=CC1)S(=O)(=O)OC1=C(N2C(CC2C1)=O)C(=O)OCC1=CC=CC=C1)C | C21H19NO6S
